US08431695B2
Step 1: Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-[1-(2-{[tert-butyl(dimethyl)-silyl]oxy}ethyl)pyrrolidin-3-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (50 mg, 0.122 mmol) was reacted with (2-bromoethoxy)(tert-butyl)dimethylsilane (60 mg, 0.254 mmol), following the procedure of Example 136. The product was triturated with ether-hexanes to yield 36 mg (52%) of pure product. 1H NMR (300 MHz, DMSO-d6) δ 8.52 (s, 1 H), 7.87 (s, 1 H), 7.79 (d 1 H), 7.56 (m, 2 H), 7.33 (m, 4 H) 7.15 (d, 1 H), 6.67 (s, 1 H), 5.63 (s, 2 H) 4.10-3.2 (m, 7 H), 3.00-1.75 (m, 4 H), 0.85 (m, 9 H), 0.05 (s, 6 H); ES-MS m/z 568.3 [M+H]+, HPLC RT (min) 3.11.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.122 mmol, 50 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCC2 | C24H23N7
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 0.254 mmol, 60 mg | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
product | 5-(2-benzyl-2H-indazol-6-yl)-7-[1-(2-{[tert-butyl(dimethyl)-silyl]oxy}ethyl)pyrrolidin-3-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 36 mg, 52% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(CC2)CCO[Si](C)(C)C(C)(C)C | C32H41N7OSi
